US07772378B2
(8) 1-Chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(pyridine-2-yl-ethynyl)-benzyl]-benzene
The compound was obtained starting from 1-chloro-4-(β-D-glucopyranos-1-yl)-2-(4-trifluoromethylsulfonyloxy-benzyl)-benzene and 2-ethynyl-pyridine.

reactant | 1-chloro-4-(β-D-glucopyranos-1-yl)-2-(4-trifluoromethylsulfonyloxy-benzyl)-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C20H20ClF3O9S
reactant | 2-ethynyl-pyridine | C(#C)C1=NC=CC=C1 | C7H5N
product | 1-Chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(pyridine-2-yl-ethynyl)-benzyl]-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)C#CC1=NC=CC=C1 | C26H24ClNO6
